US07858800B2
2) Production of tert-butyl 4-[1-(pyridin-4-yl)-1H-[1,2,3]triazol-4-yl]-1,2,3,6-tetrahydropyridine-1-carboxylate
4-Azidopyridine (140 mg) prepared in the above 1) and 207 mg of tert-butyl 4-ethynyl-1,2,3,6-tetrahydropyridine-1-carboxylate were dissolved in 3 ml of toluene and the solution was heated to reflux for 20 hours. The reaction solution was returned to room temperature and the solvent was evaporated in vacuo. The resulting residue was separated and produced by a silica gel chromatography (chloroform/methanol=100/1) to give 44 mg of the title compound as a white solid.

reactant | 4-Azidopyridine | 140 mg | N(=[N+]=[N-])C1=CC=NC=C1 | C5H4N4
reactant | tert-butyl 4-ethynyl-1,2,3,6-tetrahydropyridine-1-carboxylate | 207 mg | C(#C)C=1CCN(CC1)C(=O)OC(C)(C)C | C12H17NO2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-[1-(pyridin-4-yl)-1H-[1,2,3]triazol-4-yl]-1,2,3,6-tetrahydropyridine-1-carboxylate | 44 mg | N1=CC=C(C=C1)N1N=NC(=C1)C=1CCN(CC1)C(=O)OC(C)(C)C | C17H21N5O2
